US09254251B2
Preparation of 3-adamantan-1-yl-N-(3,4-dihydroxybenzyl)-4-hydroxybenzamide
3-Adamantan-1-yl-4-hydroxybenzoic acid (0.286 g), N-hydroxysuccinimide (0.12 g) and N,N′-dicyclohexylcarbodiimide (0.22 g) are dissolved in dioxane (5 mL) and stirred for 12 hours. The produced solid is filtered and the filtrate is added dropwise to a mixture solution of 3,4-dihydroxybenzylamine bromate (0.25 g), sodium bicarbonate (0.09 g) and water (1 mL). After stirring at 50° C. for 2 hours, the solution is cooled to room temperature, neutralized with 10% HCl solution and washed with ethyl acetate (30 mL). The organic layer is dried with anhydrous magnesium sulfate, filtered, concentrated under reduced pressure and separated by column chromatography to obtain 0.03 g of the target compound as white solid.

reactant | 3-Adamantan-1-yl-4-hydroxybenzoic acid | 0.286 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)O)C=CC2O | C17H20O3
reactant | N-hydroxysuccinimide | 0.12 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N′-dicyclohexylcarbodiimide | 0.22 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 3-adamantan-1-yl-N-(3,4-dihydroxybenzyl)-4-hydroxybenzamide | 0.03 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)NCC3=CC(=C(C=C3)O)O)C=CC2O | C24H27NO4
